US07723356B2
Aii) (R)-3-Hydroxy-1-(isoxazol-3-ylcarbamoylmethyl)-1-azonia-bicyclo[2.2.2]octane bromide
A solution comprising 2-bromo-N-isoxazol-3-yl-acetamide (0.975 g, 4.72 mmol), (R)-1-aza-bicyclo[2.2.2]octan-3-ol (0.549 g, 4.32 mmol) in chloroform/acetonitrile (1:1) (10 ml) is stirred at room temperature for 30 minutes. The resultant precipitate is filtered, washed with chloroform/acetonitrile (1:1) and dried under vacuum to yield the titled compound as a white solid.

reactant | 2-bromo-N-isoxazol-3-yl-acetamide | 4.72 mmol, 0.975 g | BrCC(=O)NC1=NOC=C1 | C5H5BrN2O2
reactant | (R)-1-aza-bicyclo[2.2.2]octan-3-ol | 4.32 mmol, 0.549 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | chloroform acetonitrile | 10 ml | C(Cl)(Cl)Cl.C(C)#N
product | (R)-3-Hydroxy-1-(isoxazol-3-ylcarbamoylmethyl)-1-azonia-bicyclo[2.2.2]octane bromide | [Br-].O[C@H]1C[N+]2(CCC1CC2)CC(NC2=NOC=C2)=O | InChI=1S/C12H17N3O3.BrH/c16-10-7-15(4-1-9(10)2-5-15)8-12(17)13-11-3-6-18-14-11;/h3,6,9-10,16H,1-2,4-5,7-8H2;1H/t9?,10-,15?;/m0./s1
